US07390798B2
Step A. 1-Benzyl 5-methyl N,N-bis(tert-butoxycarbonyl)-D-glutamate
To a solution of Boc-D-Glu-OBn (50.0 g, 148 mmol) in CH2Cl2 (400 mL) and MeOH (100 mL) at 0° C. was added (trimethylsilyl)diazomethane (2.0 M in hexanes, 89 mL, 118 mmol) dropwise via an addition funnel. After 1 h the reaction was concentrated under reduced pressure. This residue was diluted with CH3CN (400 mL) and di-tert-butyl dicarbonate (48.5 g, 222 mmol) was added, followed by DMAP (18.1 g, 14.8 mmol). The mixture was stirred at ambient temperature for 24 h, then concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc—90:10 to 40:60, to give the title compound. MS: m/z=252 (M-C10H15O4).

reactant | Boc-D-Glu-OBn | 148 mmol, 50.0 g | N([C@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H23NO6
reactant | (trimethylsilyl)diazomethane | 118 mmol, 2.0 M, 89 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | di-tert-butyl dicarbonate | 222 mmol, 48.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 mL | CO | CH4O
solvent | CH3CN | 400 mL | CC#N | C2H3N
catalyst | DMAP | 14.8 mmol, 18.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-Benzyl 5-methyl N,N-bis(tert-butoxycarbonyl)-D-glutamate | C(C)(C)(C)OC(=O)N([C@H](CCC(=O)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H33NO8
